US07335660B2
To a solution of (1S)-1-{2-[(2R)-4-(1-hydroxy-1,2-dihydro-5-acenaphthylenyl)-2-methylpiperazinyl]ethyl}-3,4-dihydro-1H-2-benzopyran-6-carboxamide (0.10 g, 0.21 mmol) in dry DMF (2 mL), cooled to 0° C. under nitrogen, was added pyridinium dichromate (0.08 g, 0.21 mmol), and the mixture stirred for 4 h, allowing the reaction to warm to room temperature. A further equivalent of pyridinium dichromate was added and the reaction stirred for a further 1 h. The mixture was poured onto water and the resultant precipitate filtered off. Purification by preparative LC-MS yielded (1S)-1-{2-[(2R)-2-methyl-4-(1-oxo-1,2-dihydro-5-acenaphthylenyl)piperazinyl]ethyl}-3,4-dihydro-1H-2-benzopyran-6-carboxamide. M+H=470.

reactant | (1S)-1-{2-[(2R)-4-(1-hydroxy-1,2-dihydro-5-acenaphthylenyl)-2-methylpiperazinyl]ethyl}-3,4-dihydro-1H-2-benzopyran-6-carboxamide | 0.21 mmol, 0.10 g | OC1CC2=CC=C(C3=CC=CC1=C23)N2C[C@H](N(CC2)CC[C@@H]2OCCC3=C2C=CC(=C3)C(=O)N)C | C29H33N3O3
reactant | pyridinium dichromate | 0.21 mmol, 0.08 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (1S)-1-{2-[(2R)-2-methyl-4-(1-oxo-1,2-dihydro-5-acenaphthylenyl)piperazinyl]ethyl}-3,4-dihydro-1H-2-benzopyran-6-carboxamide | C[C@H]1N(CCN(C1)C1=CC=C2CC(C=3C=CC=C1C32)=O)CC[C@@H]3OCCC2=C3C=CC(=C2)C(=O)N | C29H31N3O3
